US05151356
500 ml of acetic acid was added to 57 g of 1-benzylhydantoin and, while maintaining at 80° C. with stirring, 50.3 g of bromine was dropwise added thereto. After completion of the dropwise addition, the solution was further stirred for 2 hours. The reaction solution was then cooled and, while cooling with ice, 56 g of ethylene glycol was added thereto. After stirring for 30 minutes, the solution was further stirred for 3 hours at room temperature. One liter of water was added to the reaction solution, followed by extraction with 500 ml of ethyl acetate. The extract was further washed twice with 500 ml of water. The thus obtained ethyl acetate solution was dried with sodium sulfate, concentrated, and purified by silica gel chromatography to obtain 52 g of 1-benzyl-5-(2-hydroxyethoxy)hydantoin. (Yield: 74%)

reactant | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
reactant | 1-benzylhydantoin | 57 g | C(C1=CC=CC=C1)N1C(=O)NC(=O)C1 | C10H10N2O2
reactant | bromine | 50.3 g | BrBr | Br2
reactant | ethylene glycol | 56 g | C(CO)O | C2H6O2
solvent | water | One liter | O | H2O
product | 1-benzyl-5-(2-hydroxyethoxy)hydantoin | 52 g, Yield: 74% | C(C1=CC=CC=C1)N1C(=O)NC(=O)C1OCCO | C12H14N2O4
